.INCLUDE ./include.lst

.SUBCKT imul 1 2 3
	* X1=p1, Y1=p2, W=p3, Y2=X2=Z=VPOS=VNEG=0
	* W = (X1-X2)*(Y1-Y2)/10 + Z
	AD633 1 0 2 0 0 0 3 0

.ENDS imul

.SUBCKT iaddmul 1 2 3 4
	* X1=p2, Y1=p3, Z=p4, W=p1, Y2=X2=Z=VPOS=VNEG=0
	* W = (X1-X2)*(Y1-Y2)/10 + Z
	AD633 2 0 3 0 0 4 1 0
.ENDS imul
